US05344828
Ethyl 4-(2-Chlorodibenz[b,f][1,4]oxazepin-11-yl)-l-piperazineacetate
A mixture of 3.4 g of 2-chloro-11-(1-piperazinyl)dibenz[b,f][1,4]oxazepine, 2.00 g of ethyl bromoacetate and 1.38 g of potassium carbonate in 16 ml of N,N-dimethylformamide was stirred at 60°-70° C. for 3 hrs. After cooling, water was added to the reaction mixture and extracted with ether. The etheral layer was washed with water, dried and concentrated. The residue was chromatographed on silica gel using a mixture of n-hexane and ethyl acetate (2:1 and 1:1) as eluents to give 3.12 g of yellow crystals, which were recrystallized from n-hexane to give yellow prisms, mp 123°-123.5° C.

reactant | 2-chloro-11-(1-piperazinyl)dibenz[b,f][1,4]oxazepine | 3.4 g | ClC=1C=CC2=C(C(=NC3=C(O2)C=CC=C3)N3CCNCC3)C1 | C17H16ClN3O
reactant | ethyl bromoacetate | 2.00 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 16 ml | CN(C=O)C | C3H7NO
product | Ethyl 4-(2-Chlorodibenz[b,f][1,4]oxazepin-11-yl)-l-piperazineacetate | 3.12 g | ClC=1C=CC2=C(C(=NC3=C(O2)C=CC=C3)N3CCN(CC3)CC(=O)OCC)C1 | C21H22ClN3O3
